* source NEWTRY
R_Rc         N29048 N28992  3.9k TC=0,0 
C_C4         N29048 N29735 10u TC=0
C_C2         N29054 N29116 10u TC=0
X_Q1         N29048 N29054 N29134 awb2n3904 PARAMS:                            
+                 
V_V3         N29116 0  
+SIN 0 10mV 1k 0 0 0
R_R1         N29054 N28992  68k TC=0,0 
R_R2         0 N29054  10k TC=0,0 
V_V4         N28992 0 20Vdc
X_Q2         N28992 N29735 N29766 awb2n3904 PARAMS:                            
+                 
R_R3         N29735 N28992  47k TC=0,0 
R_R4         0 N29735  22k TC=0,0 
R_R5         0 N29766  1k TC=0,0 
C_C5         N29766 N37123 47u TC=0
R_R8         N36265 N29134  250 TC=0,0 
R_R9         0 N36265  100 TC=0,0 
C_C6         N36265 0 100u TC=0
R_R12         0 N37123  22k TC=0,0 
X_Q3         N28992 N37119 N37235 awb2n3904 PARAMS:                            
+                 
C_C7         N37113 N37119 10u TC=0
R_R13         N37339 N37239  220 TC=0,0 
X_Q4         N37113 N37123 N37239 awb2n3904 PARAMS:                            
+                 
R_R14         0 N37119  22k TC=0,0 
R_R10         N37119 N28992  47k TC=0,0 
C_C9         N37339 0 100u TC=0
R_Rc1         N37113 N28992  3.9k TC=0,0 
R_R16         0 N37339  100 TC=0,0 
R_R11         N37123 N28992  220k TC=0,0 
R_R15         0 N37235  1k TC=0,0 
C_C10         N37235 N38223 10u TC=0
C_C11         N38217 N38802 10u TC=0
R_Rc2         N38217 N28992  1.5k TC=0,0 
R_R17         N38223 N28992  82k TC=0,0 
R_R18         0 N38223  15k TC=0,0 
X_Q5         N38217 N38223 N38303 awb2n3904 PARAMS:                            
+                 
R_R19         N38357 N38303  120 TC=0,0 
R_R20         0 N38357  100 TC=0,0 
C_C13         N38357 0 100u TC=0
R_R21         0 N38802  100000Meg TC=0,0 
